US08530648B2
b) 2-(naphthalen-1-ylmethyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
Crude 2-naphthalen-1-yl-methyl-2,9-diaza-spiro[5.5]undecan-1-one hydrochloride (100 mg, 0.29 mmol), 2-chloro-quinoxaline (81 mg, 0.49 mmol) and triethylamine (0.12 ml, 0.87 mmol) were dissolved in EtOH (1 ml) in a microwave tube. The tube was sealed and the suspension was heated at 160° C. over 20 min under microwave conditions. The solvent was removed under reduced pressure and the resulting crude product was purified by preparative reverse phase chromatography (Sun Fire C18 column, 16 min linear gradient: elution 20-60% (CH3CN in H2O (0.1% TFA)); flow rate 50 ml/min) to yield 87 mg (53%) of the title compound. [1H NMR (DMSO, 600 MHz) δ 8.86 (s, 1H), 8.07-8.00 (m, 1H), 7.98-7.91 (m, 1H), 7.86 (d, 1H, J=8.28 Hz), 7.82 (d, 1H, J=8.02 Hz), 7.64-7.56 (m, 2H), 7.56-7.50 (m, 2H), 7.48 (t, 1H), 7.38 (t, 1H), 7.34 (d, 1H, J=7.06 Hz), 4.98 (s, 2H), 4.37-4.26 (m, 2H), 3.46 (t, 2H), 3.23-3.10 (m, 2H), 2.20-2.08 (m, 2H), 1.93-1.82 (m, 2H), 1.80-1.70 (m, 2H), 1.67-1.53 (m, 2H), LCMS RtD=3.10 min, [M+H]+=437.2].

reactant | 2-naphthalen-1-yl-methyl-2,9-diaza-spiro[5.5]undecan-1-one hydrochloride | 0.29 mmol, 100 mg | Cl.C1(=CC=CC2=CC=CC=C12)N1C(C2(CCC1C)CCNCC2)=O
reactant | 2-chloro-quinoxaline | 0.49 mmol, 81 mg | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | triethylamine | 0.87 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 1 ml | CCO | C2H6O
product | 2-(naphthalen-1-ylmethyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 87 mg, 53% | C1(=CC=CC2=CC=CC=C12)CN1C(C2(CCC1)CCN(CC2)C2=NC1=CC=CC=C1N=C2)=O | C28H28N4O
